US07309699B2
3-[(4′-nitro-1,1′-biphenyl-4-yl)oxy]quinuclidine
3-Quinuclidinol (Aldrich, 254 mg, 2 mmol) in tetrahydrofuran (anhydrous, Aldrich, 10 mL) was treated with 4′-nitro-1,1′-biphenyl-4-ol (TCl, 215 mg, 1 mmol) with DIAD (di-isopropyl azadicarboxylate, Aldrich, 404 mg, 2 mmol) and triphenylphosphine (Aldrich, 522 mg, 2 mmol) at ambient temperature for two days. The reaction mixture was concentrated. The title product was purified by chromatography (SiO2, CH2Cl2:MeOH:NH3.H2O, 90:10:1, Rf. 0.20) as a solid (200 mg, yield, 62%). 1H NMR (MeOH-d4, 300 MHz) δ 1.45-1.57 (m, 1H), 1.63-1.91 (m, 2H), 1.97-2.12 (m, 1H), 2.17-2.24 (m, 1H), 2.66-3.00 (m, 5H), 3.30-3.41 (m, 1H), 4.56-4.64 (m, 1H), 7.05 (dt, J=8.8, 2.6 Hz, 2H), 7.68 (dt, J=9.2, 2.6 Hz, 2H), 7.82 (dt, J=8.8, 2.7 Hz, 2H), 8.28 (dt, J=8.8, 2.8 Hz, 2H) ppm. MS (DCl/NH3) m/z 325 (M+H)+.

reactant | 3-Quinuclidinol | 2 mmol, 254 mg | N12CC(C(CC1)CC2)O | C7H13NO
reactant | 4′-nitro-1,1′-biphenyl-4-ol | 1 mmol, 215 mg | [N+](=O)([O-])C1=CC=C(C=C1)C1=CC=C(C=C1)O | C12H9NO3
reactant | DIAD | 2 mmol, 404 mg | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | triphenylphosphine | 2 mmol, 522 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 3-[(4′-nitro-1,1′-biphenyl-4-yl)oxy]quinuclidine | [N+](=O)([O-])C1=CC=C(C=C1)C1=CC=C(C=C1)OC1CN2CCC1CC2 | C19H20N2O3
